US06716843B2
N-[(4S)-4-Amino-5-oxo-5-((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-methanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, methanesulphonyl chloride and (S)-2-cyano-pyrrolidine hydrochloride, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-2-cyano-pyrrolidine hydrochloride | Cl.C(#N)[C@H]1NCCC1
product | N-[(4S)-4-Amino-5-oxo-5-((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-methanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C)C(N1[C@@H](CCC1)C#N)=O | InChI=1S/C11H20N4O3S.ClH/c1-19(17,18)14-6-2-5-10(13)11(16)15-7-3-4-9(15)8-12;/h9-10,14H,2-7,13H2,1H3;1H/t9-,10-;/m0./s1
